* NDB5060 ELECTRICAL MODEL (TO-263 N-Ch DMOS)
* ------------------------
.SUBCKT  NDB5060  20  10  30
Rg  10  1  3
M1   2  1  3   3   DMOS    L=1u   W=1u
.MODEL  DMOS  NMOS(VTO={3.1*{-0.00232*TEMP+1.058}}  KP={-0.018*TEMP+10.45}
+  THETA=0.056  VMAX=1.6E5  LEVEL=3)
Cgs   1  3   621p
Rd   20  4   6.7m TC=0.00416
Dds   3  4   DDS
.MODEL   DDS   D(BV={60*{0.00088*TEMP+0.978}}   M=0.33  CJO=459p   VJ=1.05)
Dbody   3   20   DBODY
.MODEL   DBODY   D(IS=1.4E-13   N=1   RS=70.8m   TT=60n)
Ra    4    2    13.2m TC=0.00416
Rs    3    5    2m
Ls    5    30   5n
M2    1    8   6   6   INTER
E2    8    6   4   1   2
.MODEL   INTER   NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7   4    1200p
Rcgd     7   4    10meg
Dgd      6   4    DGD
Rdgd     4   6    10meg
.MODEL    DGD   D(M=0.53   CJO=1600p   VJ=0.23)
M3     7   9   1   1   INTER
E3     9   1   4   1   -2
.ENDS NDB5060
*
.SUBCKT   5060THM   50  40  100

Rop       50   60   1meg                         ; From input power, use ideal
Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),
E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t
R80       80   40   1k

E_Tjc    100   40   VALUE = {V(80,40)*55*V(90,40)}; Tja=Pave(t)*RJA*rja(t)
R100     100   40   1k

R90       90   40   1k
E_rjc     90   40   table {TIME} ;Normalized NDx5060 Single Pulsed rja(t) at standard size 2oz cu 
+	(	0.0001	,	0.000735429306857878287	)
+	(	0.0002	,	0.00165471594043022614	)
+	(	0.0003	,	0.00239014524728810443	)
+	(	0.0004	,	0.00312557455414598272	)
+	(	0.0005	,	0.003861003861003861	)
+	(	0.0006	,	0.00441257584114726972	)
+	(	0.0007	,	0.00496414782129067843	)
+	(	0.0008	,	0.00551571980143408715	)
+	(	0.0009	,	0.00606729178157749586	)
+	(	0.001	,	0.00753815039529325244	)
+	(	0.002	,	0.0110314396028681743	)
+	(	0.003	,	0.0134215848501562787	)
+	(	0.004	,	0.0152601581173009744	)
+	(	0.005	,	0.016731016731016731	)
+	(	0.006	,	0.0178341606913035484	)
+	(	0.007	,	0.0187534473248758963	)
+	(	0.008	,	0.0194888766317337746	)
+	(	0.009	,	0.0200404486118771833	)
+	(	0.01	,	0.0207758779187350616	)
+	(	0.02	,	0.0229821658393086965	)
+	(	0.03	,	0.0250045964331678617	)
+	(	0.04	,	0.0262915977201691487	)
+	(	0.05	,	0.0273947416804559662	)
+	(	0.06	,	0.0284978856407427836	)
+	(	0.07	,	0.0290494576208861923	)
+	(	0.08	,	0.0297848869277440706	)
+	(	0.09	,	0.0305203162346019489	)
+	(	0.1	,	0.0312557455414598272	)
+	(	0.2	,	0.0358521787093215665	)
+	(	0.3	,	0.0410001838573267145	)
+	(	0.4	,	0.0443096157381871668	)
+	(	0.5	,	0.0485383342526199669	)
+	(	0.6	,	0.0525831954403382975	)
+	(	0.7	,	0.0560764846479132193	)
+	(	0.8	,	0.0601213458356315499	)
+	(	0.9	,	0.0634307777164920022	)
+	(	1	,	0.0685787828644971502	)
+	(	2	,	0.0968928111785254643	)
+	(	3	,	0.120426548997977569	)
+	(	4	,	0.142121713550284979	)
+	(	5	,	0.160507446221731936	)
+	(	6	,	0.175583747012318441	)
+	(	7	,	0.192130906416620702	)
+	(	8	,	0.207207207207207207	)
+	(	9	,	0.222283507997793712	)
+	(	10	,	0.242323956609670895	)
+	(	20	,	0.356499356499356499	)
+	(	30	,	0.448428019856591285	)
+	(	40	,	0.526567383710240853	)
+	(	50	,	0.590549733406876264	)
+	(	60	,	0.643500643500643501	)
+	(	70	,	0.693693693693693694	)
+	(	80	,	0.735429306857878287	)
+	(	90	,	0.766133480419194705	)
+	(	100	,	0.810626953484096341	)
+	(	200	,	0.955506526935098364	)
+	(	300	,	1	)
.ENDS 5060THM

